* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Digital\Schematics\TestFIR_RACX.asc
V1 Xnew_0 0 PULSE(0 3.3 5n 100p 100p 500n 1000n 1)
V2 Xnew_1 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V3 Xnew_2 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V4 Xnew_3 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V5 Xnew_4 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V6 Xnew_5 0 PULSE(0 0 5n 100p 100p 50n 100n 1)
V7 Xold_0 0 {Xnew_0}
V8 Xold_1 0 {Xnew_1}
V9 Xold_2 0 {Xnew_2}
V10 Xold_3 0 {Xnew_3}
V11 Xold_4 0 {Xnew_4}
V12 Xold_5 0 {Xnew_5}
V13 Vdd 0 3.3
XX1 Vdd 0 oc_0 oc_1 oc_2 oc_3 q0_2 q0_3 q0_4 q0_5 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 pseudo_fir_cla_nocin
XX2 N001 q0_0 q0_1 q0_2 q0_3 q0_4 q0_5 N002 q1_0 q1_1 q1_2 q1_3 q1_4 q1_5 N003 q2_0 q2_1 q2_2 q2_3 q2_4 q2_5 N004 q3_0 q3_1 q3_2 q3_3 q3_4 q3_5 Vdd y0 y1 y2 y3 y4 y5 24x6muc
XX3 q0 q1 vdd N001 N002 N003 N004 decoder
V14 N005 0 PULSE(0 3.3 5n 100p 100p 50n 100n 1)
V15 N006 0 PULSE(0 3.3 5n 100p 100p 50n 100n 1)
XX4 ck_slow phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 Vdd q0_0 q0_1 q0_2 q0_3 q0_4 q0_5 dff_5
XX5 ck_slow phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 Vdd q1_0 q1_1 q1_2 q1_3 q1_4 q1_5 dff_5
XX6 ck_slow phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vdd q2_0 q2_1 q2_2 q2_3 q2_4 q2_5 dff_5
XX7 ck_slow phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5 Vdd q3_0 q3_1 q3_2 q3_3 q3_4 q3_5 dff_5
V16 ck_slow 0 PULSE(0 3.3 0 1p 1p {tp/2} {tp})
XX8 ck_fast vdd q0 q1 2bcount
V17 ck_fast 0 PULSE(0 3.3 0 1p 1p {tp/2/4} {tp/4})
V19 i_clk 0 PULSE(0 3.3 'td' 'tt' 'tt' 'tclk/2' 'tclk')
V20 i_rstb 0 PULSE(3.3 0 1n 'tt' 'tt' 5n)
XA1 i_clk i_rstb o_D[1] o_D[0] o_D[5] o_D[4] o_D[3] o_D[2] ramp
XX9 ck_slow 0 0 o_D[2] o_D[3] o_D[4] o_D[5] Vdd 0 0 oc_0 oc_1 oc_2 oc_3 dff_5

* block symbol definitions
.subckt pseudo_fir_cla_nocin Vdd Vee Xnew_0 Xnew_1 Xnew_2 Xnew_3 Xold_0 Xold_1 Xold_2 Xold_3 phi0_0 phi0_1 phi0_2 phi0_3 phi0_4 phi0_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 phi1_5 phi2_0 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 phi3_5
V1 phi0_0 Vee 0
V2 phi0_1 Vee 0
V3 phi0_2 Xnew_0 0
V4 phi0_3 Xnew_1 0
V5 phi0_4 Xnew_2 0
V6 phi0_5 Xnew_3 0
V7 phi2_0 Vee 0
XX2 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vee Xold_0 Xold_1 Xold_2 Xold_3 Vdd Vee phi1_5 phi1_0 phi1_1 phi1_2 phi1_3 phi1_4 pseudo-cla-5bit-nocin
XX3 phi2_1 phi2_2 phi2_3 phi2_4 phi2_5 Vee Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd Vee phi3_5 phi3_0 phi3_1 phi3_2 phi3_3 phi3_4 pseudo-cla-5bit-nocin
XX1 Xold_0 Xold_1 Xold_2 Xold_3 Xnew_0 Xnew_1 Xnew_2 Xnew_3 Vdd Vee phi2_5 phi2_1 phi2_2 phi2_3 phi2_4 pseudo-cla-4bit-nocin
.ends pseudo_fir_cla_nocin

.subckt 24x6muc PHI0 PHI0_0 PHI0_1 PHI0_2 PHI0_3 PHI0_4 PHI0_5 PHI1 PHI1_0 PHI1_1 PHI1_2 PHI1_3 PHI1_4 PHI1_5 PHI2 PHI2_0 PHI2_1 PHI2_2 PHI2_3 PHI2_4 PHI2_5 PHI3 PHI3_0 PHI3_1 PHI3_2 PHI3_3 PHI3_4 PHI3_5 Vdd Y0 Y1 Y2 Y3 Y4 Y5
XX1 PHI0 Vdd PHI0_0 PHI0_1 PHI0_2 PHI0_3 PHI0_4 PHI0_5 Y0 Y1 Y2 Y3 Y4 Y5 6x6tg
XX2 PHI1 Vdd PHI1_0 PHI1_1 PHI1_2 PHI1_3 PHI1_4 PHI1_5 Y0 Y1 Y2 Y3 Y4 Y5 6x6tg
XX3 PHI2 Vdd PHI2_0 PHI2_1 PHI2_2 PHI2_3 PHI2_4 PHI2_5 Y0 Y1 Y2 Y3 Y4 Y5 6x6tg
XX4 PHI3 Vdd PHI3_0 PHI3_1 PHI3_2 PHI3_3 PHI3_4 PHI3_5 Y0 Y1 Y2 Y3 Y4 Y5 6x6tg
.ends 24x6muc

.subckt decoder Q0 Q1 Vdd PHI_0 PHI_1 PHI_2 PHI_3
XX2 Q0 Q1 Vdd 0 PHI_0 nor2x1
XX3 Q0 Q1 Vdd N003 0 nand2x1
XX4 N003 Vdd PHI_3 0 invx1
XX5 Q0_BAR Q1 Vdd N002 0 nand2x1
XX6 N002 Vdd PHI_2 0 invx1
XX7 Q0 Q1_BAR Vdd N001 0 nand2x1
XX8 N001 Vdd PHI_1 0 invx1
XX9 Q0 Vdd Q0_BAR 0 invx1
XX10 Q1 Vdd Q1_BAR 0 invx1
.ends decoder

.subckt dff_5 ck d0 d1 d2 d3 d4 d5 vdd q0 q1 q2 q3 q4 q5
XX1 ck d0 vdd q0 NC_01 sdff
XX2 ck d1 vdd q1 NC_02 sdff
XX3 ck d2 vdd q2 NC_03 sdff
XX4 ck d3 vdd q3 NC_04 sdff
XX5 ck d4 vdd q4 NC_05 sdff
XX6 ck d5 vdd q5 NC_06 sdff
.ends dff_5

.subckt 2bcount CK Vdd Q0 Q1
XX1 Q1 Q0 Vdd N001 xorx1
XX2 CK N002 Vdd Q0 N002 dff
XX3 CK N001 Vdd Q1 NC_01 dff
.ends 2bcount

.subckt ramp i_clk i_rstb o_D[1] o_D[0] o_D[5] o_D[4] o_D[3] o_D[2]
A1[3] m[3] 0 i_clk 0 m_rst Db[5] n[3] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[2] m[2] 0 i_clk 0 m_rst Db[4] n[2] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[1] m[1] 0 i_clk 0 m_rst Db[3] n[1] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A1[0] m[0] 0 i_clk 0 m_rst Db[2] n[0] 0 DFLOP Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
V1[1] o_D[1] 0 0
V1[0] o_D[0] 0 0
A2 i_rstb 0 0 0 0 m_rst 0 0 BUF Vhigh = 3.3 Vlow = 0
XA3 n[0] N001 0 m_C[0] m[0] fa
XA4 n[1] 0 m_C[0] m_C[1] m[1] fa
XA5 n[2] 0 m_C[1] m_C[2] m[2] fa
XA6 n[3] 0 m_C[2] m_C[3] m[3] fa
A7 0 0 0 0 0 N001 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[3] Db[5] 0 0 0 0 o_D[5] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[2] Db[4] 0 0 0 0 o_D[4] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[1] Db[3] 0 0 0 0 o_D[3] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
A8[0] Db[2] 0 0 0 0 o_D[2] 0 0 BUF Vhigh = 3.3 Vlow = 0 Trise = 'tt' Tfall = 'tt'
.param tt = 50p
.ends ramp

.subckt pseudo-cla-5bit-nocin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
XX34 N013 Vdd N014 Vee invx1
XX35 N007 Vdd N008 Vee invx1
XX36 N005 Vdd N006 Vee invx1
XX37 N002 Vdd S2 Vee invx1
XX38 N003 Vdd S3 Vee invx1
XX39 N001 Vdd S1 Vee invx1
XX42 P_2 G_1 Vdd N013 Vee nand2x1
XX43 P_3 G_2 Vdd N007 Vee nand2x1
XX44 P_1 Co_0 Vdd N005 Vee nand2x1
XX47 P_1 Co_0 Vdd Vee N001 xnor2x1
XX48 P_2 Co_1 Vdd Vee N002 xnor2x1
XX49 P_3 Co_2 Vdd Vee N003 xnor2x1
XX1 A_0 B_0 Vdd Vee Co_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
XX14 A_4 B_4 Vdd Vee G_4 P_4 pg
XX15 N004 Vdd S4 Vee invx1
XX16 P_4 Co_3 Vdd Vee N004 xnor2x1
XX17 N017 Vdd N018 Vee invx1
XX18 P_4 G_3 Vdd N017 Vee nand2x1
XX25 P_1 P_2 Co_0 Vdd Vee N015 3-nand
XX26 P_2 P_3 G_1 Vdd Vee N010 3-nand
XX27 P_3 P_4 G_2 Vdd Vee N019 3-nand
XX29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-nand
XX30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-nand
XX50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-nand
XX5 N006 G_1 Vdd Vee N009 pseudonor-2
XX7 N008 N010 N012 G_3 Vdd Vee N011 pseudonor-4
XX8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudonor-5
XX10 N009 Vdd Co_1 Vee invx1
XX11 N011 Vdd Co_3 Vee invx1
XX12 N021 Vdd Co_4 Vee invx1
XX13 N016 Vdd Co_2 Vee invx1
XX6 N014 N015 G_2 Vdd Vee N016 pseudonor-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-cla-5bit-nocin

.subckt pseudo-cla-4bit-nocin A_0 A_1 A_2 A_3 B_0 B_1 B_2 B_3 Vdd Vee Co_3 S0 S1 S2 S3
XX47 P_1 Co_0 Vdd Vee N013 xnor2x1
XX48 P_2 Co_1 Vdd Vee N007 xnor2x1
XX49 P_3 Co_2 Vdd Vee N001 xnor2x1
XX1 A_0 B_0 Vdd Vee G_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
V1 Co_0 G_0 0
XX13 P_1 G_0 Vdd N002 Vee nand2x1
XX14 P_2 G_1 Vdd N011 Vee nand2x1
XX15 P_3 G_2 Vdd N004 Vee nand2x1
XX16 N002 Vdd N003 Vee invx1
XX10 N006 Vdd Co_1 Vee invx1
XX12 N011 Vdd N012 Vee invx1
XX17 N015 Vdd Co_2 Vee invx1
XX18 N004 Vdd N005 Vee invx1
XX19 N009 Vdd Co_3 Vee invx1
XX20 N001 Vdd S3 Vee invx1
XX21 N007 Vdd S2 Vee invx1
XX22 N013 Vdd S1 Vee invx1
XX6 N003 G_1 Vdd Vee N006 pseudonor-2
XX7 N012 N014 G_2 Vdd Vee N015 pseudonor-3
XX9 N005 N008 N010 G_3 Vdd Vee N009 pseudonor-4
XX5 P_1 P_2 G_0 Vdd Vee N014 3-nand
XX8 P_1 P_2 P_3 G_0 Vdd Vee N010 4-nand
XX11 P_2 P_3 G_1 Vdd Vee N008 3-nand
V2 S0 P_0 0
.ends pseudo-cla-4bit-nocin

.subckt 6x6tg A Vdd X0 X1 X2 X3 X4 X5 Y0 Y1 Y2 Y3 Y4 Y5
XX1 A A_BAR X0 Vdd Y0 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX5 A Vdd A_BAR 0 invx1
XX2 A A_BAR X1 Vdd Y1 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX3 A A_BAR X2 Vdd Y2 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX6 A A_BAR X3 Vdd Y3 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX7 A A_BAR X4 Vdd Y4 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX8 A A_BAR X5 Vdd Y5 tgate params: L=0.28u Wn=1u Wp=3u M=1
.ends 6x6tg

.subckt nor2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends nor2x1

.subckt nand2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends nand2x1

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt sdff CK D Vdd Q Q_BAR
M2 Vdd CK N002 Vdd pmos_3p3 l={L} w={Wp} m={Mp1}
M3 N004 D N007 0 nmos_3p3 l={L} w={Wn} m={Mn1}
M4 N007 CK 0 0 nmos_3p3 l={L} w={Wn} m={Mn1}
XX1 CK Vdd N001 0 invx1
XX2 N001 Vdd CK_D 0 invx1
XX4 Q Vdd Q_BAR 0 invx1
XX5 Q_BAR Vdd Q 0 invx1
M1 N002 N003 N004 0 nmos_3p3 l={L} w={Wn} m={Mn1}
XX6 N002 CK_D Vdd N003 0 nand2x1
M5 Vdd N002 Q Vdd pmos_3p3 l={L} w={Wp2} m={Mp2}
M6 Q CK N006 0 nmos_3p3 l={L} w={Wn2} m={Mn2}
M7 N006 N002 0 0 nmos_3p3 l={L} w={Wn2} m={Mn2}
XX3 N005 Vdd N002 0 invx1
XX7 N002 Vdd N005 0 invx1
.param Wp=9u Wn=3u L=0.28u Mn1=3 Mp1=1 Mn2=2 Mp2=1
.param Wp2=9u Wn2=3u
.ends sdff

.subckt xorx1 A B Vdd OUT
M1 A B_bar OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT B A Vdd pmos_3p3 l='L' w='Wp' m='M'
M3 OUT B A_bar 0 nmos_3p3 l='L' w='Wn' m='M'
M4 A_bar B_bar OUT Vdd pmos_3p3 l='L' w='Wp' m='M'
XX1 A Vdd A_bar 0 invx1
XX2 B Vdd B_bar 0 invx1
.param L=0.28u Wn=1u Wp=2u M=1
.ends xorx1

.subckt dff CK D Vdd Q Q_BAR
XX5 D Vdd N001 0 invx1
XX2 N002 Vdd N003 0 invx1
XX3 N003 Vdd N005 0 invx1
XX4 CK CK_BAR N005 Vdd N002 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX6 CK CK_BAR N003 Vdd N004 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX7 N004 Vdd Q_BAR 0 invx1
XX8 Q_BAR Vdd N006 0 invx1
XX9 CK_BAR CK N006 Vdd N004 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX10 Q_BAR Vdd Q 0 invx1
XX11 CK Vdd CK_BAR 0 invx1
XX1 CK_BAR CK N001 Vdd N002 tgate params: L=0.28u Wn=1u Wp=3u M=1
.ends dff

.subckt fa i_A i_B i_C o_C o_S
B1 o_C 0 V = ((V(i_A)&V(i_B)) | (V(i_B)&V(i_C)) | (V(i_A)&V(i_C)))*3.3
B2 o_S 0 V=((V(i_A)^V(i_B))^V(i_C))*3.3
.ends fa

.subckt xnor2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
XX1 B Vdd N001 Vee invx1
XX2 A Vdd N002 Vee invx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends xnor2x1

.subckt pg A B Vdd Vee G P
XX5 A B Vdd Vee N001 xnor2x1
XX6 A B Vdd N002 Vee nand2x1
XX7 N002 Vdd G Vee invx1
XX8 N001 Vdd P Vee invx1
.ends pg

.subckt 3-nand A B C Vdd Vee X
XX3 N003 Vdd X Vee invx1
XX4 N001 Vdd N002 Vee invx1
XX7 A B Vdd N001 Vee nand2x1
XX8 N002 C Vdd N003 Vee nand2x1
.ends 3-nand

.subckt 4-nand A B C D Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N005 Vee nand2x1
XX9 N002 N004 Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N005 Vdd N004 Vee invx1
XX12 N003 Vdd X Vee invx1
.ends 4-nand

.subckt 5-nand A B C D E Vdd Vee X
XX1 N001 E Vdd N002 Vee nand2x1
XX2 N002 Vdd X Vee invx1
XX4 A B C D Vdd Vee N001 4-nand
.ends 5-nand

.subckt pseudonor-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-2

.subckt pseudonor-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-4

.subckt pseudonor-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-5

.subckt pseudonor-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-3

.subckt tgate A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=3u M=1
.ends tgate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.param Xold_0=0 Xold_1=0 Xold_2=0 Xold_3=0 Xold_4=0 Xold_5=0
.param Xnew_0=0 Xnew_1=0 Xnew_2=0 Xnew_3=0 Xnew_4=0 Xnew_5=0
* .tran 0 100n 0 10p
.inc ..\..\gf180\cmos_tt.txt
.measure tran tphi1_A TRIG V(xold_5) VAL=1.65 RISE=1 TARG V(phi1_5) VAL=1.65 RISE=1
.measure tran tphi1_B TRIG V(Xold_0) VAL=1.65 RISE=1 TARG V(phi1_4) VAL=1.65 RISE=1
.param a=0.8
* (0.25*V(phi0_0) + 0.5*V(phi0_1) + V(phi0_2) + 2*V(phi0_3) + 4*V(phi0_4) + 8*V(phi0_5))/3.3\n(0.25*V(phi1_0) + 0.5*V(phi1_1) + V(phi1_2) + 2*V(phi1_3) + 4*V(phi1_4) + 8*V(phi1_5))/3.3\n(0.25*V(phi2_0) + 0.5*V(phi2_1) + V(phi2_2) + 2*V(phi2_3) + 4*V(phi2_4) + 8*V(phi2_5))/3.3\n(0.25*V(phi3_0) + 0.5*V(phi3_1) + V(phi3_2) + 2*V(phi3_3) + 4*V(phi3_4) + 8*V(phi3_5))/3.3
* (0.25*V(y0)+0.5*V(y1)+V(y2)+2*V(y3)+4*V(y4)+8*V(y5))/3.3
.param tp=4n
.tran {20*tp}
.param tclk = 50n/5
.param td = 10n/5
.param tt = 50p/5
.ic V(phi0_0)=0 V(phi0_1)=0 V(phi0_2)=0 V(phi0_3)=0 V(phi0_4)=0 V(phi0_5)=0
.backanno
.end
